US06620828B2
To a solution of 2 g (9.17 mmol, 1.0 eq.) of 3-(t-butoxycarbamoyl)benzonitrile in 25 mL of EtOH was added 0.84 mL (13.76 mmol, 1.5 eq.) of 50% aqueous solution of NH2OH. The reaction was placed in an oil bath at 80° C. and heated to 85° C. for 4 h. The solvent was removed in vacuo, and residual water was removed by azeotroping the residue with THF-toluene. Without purification, the crude hydroxyamidine (Rf=0.1 in 10% Et2O—CH2Cl2) was dissolved in 45 mL of DMF and 2.1 mL (12 mmol, 1.3 eq.) of diisopropylethyl amine and 110 mg (0.92 mmol, 0.1 eq.) of DMAP were added. The mixture was cooled to −50° C., and a solution of 0.88 mL (11 mmol, 1.2 eq.) of chloroacetyl chloride in 15 mL of CH2Cl2 (or DMF) was added dropwise, under argon. The reaction was stirred at −50° C. for 1 h, and then poured into EtOAc and washed with 1N HCl and brine. The organic layer was dried over Na2SO4 and the solvent was removed. The residue was taken up in 50 mL of dioxane and placed in an oil bath at 110° C. for about 1 h. The solvent was removed and the residue was purified on SiO2 (Et2O-hexane eluant) to yield 2 g of 5-chloromethyl-3-(3-(t-butoxy-carbamoyl)phenyl)-[1,2,4]-oxadiazole as a white solid (70% overall yield for three steps). Rf=0.9 (10% Et2O—CH2Cl2). 1H NMR (CDCl3): δ 1.5 (s, 9H), 4.75 (s, 2H), 6.62 (s br, 1H), 7.45 (dd, 1H), 7.62 (d br, 1H), 7.75 (m, 1H), 8.05 (m, 1H).

reactant | 3-(t-butoxycarbamoyl)benzonitrile | 9.17 mmol, 2 g, 1.0 eq. | C(C)(C)(C)ONC(=O)C=1C=C(C#N)C=CC1 | C12H14N2O2
reactant | NH2OH | NO | H3NO
reactant | diisopropylethyl amine | 12 mmol, 2.1 mL, 1.3 eq. | C(C)(C)N(CC)C(C)C | C8H19N
reactant | chloroacetyl chloride | 11 mmol, 0.88 mL, 1.2 eq. | ClCC(=O)Cl | C2H2Cl2O
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | DMAP | 0.92 mmol, 110 mg, 0.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-chloromethyl-3-(3-(t-butoxy-carbamoyl)phenyl)-[1,2,4]-oxadiazole | 2 g | ClCC1=NC(=NO1)C1=CC(=CC=C1)C(NOC(C)(C)C)=O | C14H16ClN3O3
